US04810713
4-(3-Chloropropoxy)benzenesulfonamide
A mixture of 25 g (0.144 mole) of p-hydroxybenzenesulfonamide, 45.5 g (0.289 mole) of 1-bromo-3-chloropropane and 59.7 g (0.432 mole) of anhydrous potassium carbonate in 500 ml of acetone was heated at reflux for 24 hr. The mixture was cooled, filtered and the filtrate concentrated under vacuum pump pressure at 90° C. to give 32.2 g of tan gum as residue. The gum was purified by column chromatography on 600 g of silica gel. Fractions containing the title compound eluted with 8% acetone in benzene were combined and concentrated under reduced pressure to yield 12.2 g (34%) of white solid, m.p. 106-107.5 on recrystallization from 2-propanol.

reactant | p-hydroxybenzenesulfonamide | 0.144 mole, 25 g | OC1=CC=C(C=C1)S(=O)(=O)N | C6H7NO3S
reactant | 1-bromo-3-chloropropane | 0.289 mole, 45.5 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.432 mole, 59.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 4-(3-Chloropropoxy)benzenesulfonamide | 32.2 g | ClCCCOC1=CC=C(C=C1)S(=O)(=O)N | C9H12ClNO3S
